US04117229
A solution of 1.0 g. of 2-amino-1-[5-amino-1-(phenylmethyl)-1H-imidazol-4-yl]ethanone dihydrochloride in 100 ml. of 70:20:10 methanol:water:acetic acid is hydrogenated over 0.52 g. of 20% palladium-on-carbon at 50 p.s.i. until hydrogen uptake ceases. The catalyst is removed by filtration and the filtrate is evaporated at reduced pressure to give 2-amino-1-(5-amino-1H-imidazol-4-yl)ethanone dihydrochloride; m.p. above 250° dec.

reactant | 2-amino-1-[5-amino-1-(phenylmethyl)-1H-imidazol-4-yl]ethanone dihydrochloride | Cl.Cl.NCC(=O)C=1N=CN(C1N)CC1=CC=CC=C1
reactant | methanol | CO | CH4O
reactant | water | O | H2O
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-amino-1-(5-amino-1H-imidazol-4-yl)ethanone dihydrochloride | Cl.Cl.NCC(=O)C=1N=CNC1N | InChI=1S/C5H8N4O.2ClH/c6-1-3(10)4-5(7)9-2-8-4;;/h2H,1,6-7H2,(H,8,9);2*1H
